US08076517B2
(R)—N′-(1-tert-butyl-but-3-enyl)-hydrazinecarboxylic acid benzyl ester (110 g, 398 mmoles) and 500 mL of methylene chloride were added to a 2 L round bottom flask with a thermometer and magnetic stirrer. A solution of K2CO3 (82.51 g, 597 mmol in 200 mL deionized water) was subsequently added, and the flask was cooled to ca. 10° C. Neat 3,5-dimethyl benzoyl chloride (73.82 g, 437.8 mmol) was then added slowly over a period of 20 min. 1 L methylene chloride was used to rinse residual acid chloride into the flask and to dilute the reaction mixture. The temperature was not allowed to exceed 15° C. during the addition. The reaction was stirred overnight, first in an ice bath and then at room temperature. TLC analysis at ca. 16 hours indicated that the reaction was complete with residual acid chloride; the mixture was stirred for a total of ca. 40 hours. The reaction mixture was poured into a 2 L separatory funnel. The organic layer was collected and combined with a small CH2Cl2 backwash of the aqueous layer. The organic phase was washed once more with 10% K2CO3, washed with brine, and then dried over solid MgSO4/Na2SO4. The mixture was filtered from salts, and solvent was removed in vacuo to obtain a granular light beige solid. The crude product was suspended and stirred in 300 mL of 2:1 hexanes:ether and filtered on a Büchner funnel to substantially remove residual 3,5-dimethylbenzoyl chloride. The collected solids were washed four times more with a combined total of ca. 1200 mL 2:1 hexanes:ether, thereby providing a white granular solid. The product was collected and allowed to dry in the air to yield 144.55 g (R)—N′-(1-tert-butyl-but-3-enyl)-N′-(3,5-dimethyl-benzoyl)-hydrazinecarboxylic acid benzyl ester, yield=88.9%. A 30 g sample of was dissolved in 205 mL boiling methanol and allowed to crystallize at room temperature. The resultant flocculant material was washed in a Büchner with 50 mL CH3OH to give 22.2 g, mp=146° C., (ee>99.9%). An analytical sample of (R)—N′-(1-tert-butyl-but-3-enyl)-N′-(3,5-dimethyl-benzoyl)-hydrazinecarboxylic acid benzyl ester was obtained by twice-recrystallizing this material from boiling CH3OH followed by Kugelrohr short-path distillation and collection as a solid to give a pure white material: mp=145.5-147° C. Rf=0.12 (10:1 hexanes:ethyl acetate); 1H NMR (400 MHz, CDCl3): 7.5-7.2 (m, 9H, φ+NH), 7.2-6.8 (m), 6.4 (S), 6.3 (S), 5.95 (br, 5H, benzylic+C═C), 5.4-4.6 (m, 9H, allylic N—CH, φ-CH3), 3.65 (br), 2.5 (m), 2.35 (S), 2.3 (S), 1.2-0.8 (m, 9H, —C(CH3)3); [α]25589 −12.8° (c 2.01, CHCl3).

reactant | (R)—N′-(1-tert-butyl-but-3-enyl)-hydrazinecarboxylic acid benzyl ester | 398 mmoles, 110 g | C(C1=CC=CC=C1)OC(=O)NN[C@H](CC=C)C(C)(C)C | C16H24N2O2
reactant | K2CO3 | 597 mmol, 200 mL, 82.51 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dimethyl benzoyl chloride | 437.8 mmol, 73.82 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | (R)—N′-(1-tert-butyl-but-3-enyl)-N′-(3,5-dimethyl-benzoyl)-hydrazinecarboxylic acid benzyl ester | 144.55 g, yield=88.9% | C(C1=CC=CC=C1)OC(=O)NN(C(C1=CC(=CC(=C1)C)C)=O)[C@H](CC=C)C(C)(C)C | C25H32N2O3
